US04820834
N-(2,4-Dichlorophenyl)-N'-(2,3-dihydro-1-methyl-2-oxo-5-phenyl-1H-1,4-benzodiazepin-3-yl)-urea
Equimolar amounts of 3(R,S)-amino-1,3-dihydro-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one and 2,4-dichlorophenylisocyanate were mixed in 8 ml of dry tetrahydrofuran at room temperature. The reaction mixture was allowed to stand for 8 hours and was then filtered. The collected solids were washed with tetrahydrofuran and dried in vacuo over P2O5 to give the analytical product: m.p. 285°-287° C. (d).

reactant | 3(R,S)-amino-1,3-dihydro-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one | NC1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)C)=O | C16H15N3O
reactant | 2,4-dichlorophenylisocyanate | ClC1=C(C=CC(=C1)Cl)N=C=O | C7H3Cl2NO
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | N-(2,4-Dichlorophenyl)-N'-(2,3-dihydro-1-methyl-2-oxo-5-phenyl-1H-1,4-benzodiazepin-3-yl)-urea | ClC1=C(C=CC(=C1)Cl)NC(=O)NC1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)C)=O | C23H18Cl2N4O2
